* C:\Users\leone\Documents\repos\C2\simulaciones\checkpoint2\reguladorB.asc
Q1 N006 Vref N010 0 TR1
Q2 N009 Vf N010 0 TR1
Q3 N007 N009 N001 0 2N2222
Q5 N010 N021 N028 0 BC547B
Q6 N021 N021 N027 0 BC547B
R1 Vref N021 100
R2 Vreg N003 0.1k
R3 Vreg N002 0.1k
RL Vo 0 2
Q7 N001 N007 Vreg 0 tip42C
Q8 N009 N006 N003 0 BC557B
Q9 N006 N006 N002 0 BC557B
V1 Vreg 0 6.25
V2 Vref 0 1.2
R7 N001 N004 2.2k
R8 Vo N008 2.2k
R9 N004 0 22k
R10 N008 Vs 22k
R11 N022 Vref 2.2k
R12 0 N022 910
R13 N016 N023 1.1k
R14 Vref-c N024 1k
R15 N016 N017 1k
R16 N015 Vf 1k
R17 0 N015 11k
R20 N013 Vref-c 2.2k
R23 N019 0 75
R24 N024 0 1k
R21 N012 N013 82k
R200 Vs N005 2.2k
R19 0 N005 82k
R4 N001 Vo 0.1
Q4 N009 N011 N019 0 2N2222
XU6 N016 N024 5v 0 Vref-c LM324
XU2 N004 N008 5v 0 Vs TLV2371
XU1 N005 N013 5v 0 N012 LM324
XU3 N015 N017 5v 0 N017 LM324
XU4 N022 N023 5v 0 N023 LM324
V3 5v 0 5
R5 Vo Vf 3.3k
R6 Vf N020 2.2k
R26 Vf N020 2.4k
M1 N020 N025 0 0 BSZ100N03LS
R28 N026 N025 1k
V4 N026 0 0
R27 N020 N029 1.1k
R29 N029 0 20
R18 N027 0 820
R25 N028 0 820
V5 N018 0 PULSE(0.1 1 10m 1u 1u 5m 20m)
S1 0 Vo N018 0 SW
C1 Vo 0 1µ
C3 Vo Vf 1n
C4 N009 0 22n
C5 N013 N012 120n
C2 P001 0 10n
R22 Vo P001 100
L1 N012 N011 10Meg
V6 P002 0 AC 1
C6 N011 P002 10Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\leone\AppData\Local\LTspice\lib\cmp\standard.mos
;step param RE 1k 1.5k 100
;param RL=6
* .tran 0 20m 0 1u
.include librerias/bd140.lib
.include librerias/complex_discretes.lib
* .op
* REFERENCIA
.inc opamp.sub
.lib librerias/LM324.ti.lib
* LIBRERIAS
* SIMULACIONES
.meas DC Vo1rl FIND V(Vo) AT=6.15
.meas DC Vo2rl FIND V(Vo) AT=6.35
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/1.85)
* Mido regulacion de linea
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido regulacion de carga
* -100*((V(vo)*I(RL))/(V(Vreg)*I(V1)))
* Mido eficiencia
* .dc V1 2 10 0.1
.param VINDC 6.25
.lib librerias/tlv2731.lib
.model SW SW(Ron=0.1 Roff=100Meg Vt=0.5 Vh=0.25)
.ac dec 50 1 100Meg
* PWL(1m 0 1.01m 1.2 3m 1.2 3.1m 1.3)
* PWL(1m 0 1.1m 6.15 2m 6.15 2.1m 7.15)
.backanno
.end
